US04239708
2-Methoxy-p-phenylenediamine-H2SO4 (100 g) is stirred for an hour in a solution containing 42 g of NaOH in 550 ml of H2O. The diamine is extracted eleven times successively with 200 ml of CH2Cl2 and the combined extracts are dried over MgSO4. The extract is filtered and evaporated to dryness in vacuo to afford 43 g (79.6% recovery) of 2-methoxy-p-phenylenediamine. The solid diamine then is added to diethoxyphosphinyl isothiocyanate (or diethyl phosphoroisothiocyanatidate prepared by stirring 134.4 g of diethyl phosphorchloridate with 66 g of dry NaSCN in 150 ml of CH2Cl2) in CH2Cl2. An additional 300 ml of CH2Cl2 is added and after 23 hours at ambient temperature, the mixture is warmed to reflux temperature on a steam bath. The mixture is cooled and 400 ml of water is added and after shaking, the organic phase is separated. The organic phase is treated with charcoal and evaporated to dryness to afford a brown residue. This residue is stirred in 100 ml of acetone/240 ml of pentane and filtered to give 118 g (72%) of the title compound. The overall yield including the isolation of the diamine is 57.6%.

reactant | 2-Methoxy-p-phenylenediamine H2SO4 | 100 g | COC1=C(C=CC(=C1)N)N.OS(=O)(=O)O
reactant | NaOH | 42 g | [OH-].[Na+]
solvent | H2O | 550 ml | O | H2O
product | 2-methoxy-p-phenylenediamine | 43 g, 79.6% | COC1=C(C=CC(=C1)N)N | C7H10N2O
